US09402841B2
Step A: methyl 2-bromo-6-chlorobenzoate
To a solution 2-bromo-6-chlorobenzoic acid (9.5 g, 0.041 mol) and potassium carbonate (8.6 g, 0.061 mol) in N,N-dimethylformamide (50 mL) was added methyl iodide (11.2 g, 0.081 mol) dropwise over a 10 minute period. The reaction mixture was stirred at RT for 3.5 hours and was subsequently diluted with water (500 mL). The aqueous phase was back-extracted with EtOAc (3×300 mL). The organic layers were combined, washed with 1M HCl aq (100 mL), dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to give the title compound (10.0 g, 99.4%). 1H NMR (400 MHz, CDCl3) δ ppm 7.413 (d, J=8 Hz, 1H), 7.29 (d, J=8 Hz, 1H), 7.137 (t, J=8 Hz, 1H), 3.9 (s, 3H).

reactant | 2-bromo-6-chlorobenzoic acid | 0.041 mol, 9.5 g | BrC1=C(C(=O)O)C(=CC=C1)Cl | C7H4BrClO2
reactant | potassium carbonate | 0.061 mol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.081 mol, 11.2 g | CI | CH3I
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | methyl 2-bromo-6-chlorobenzoate | 10.0 g, 99.4% | BrC1=C(C(=O)OC)C(=CC=C1)Cl | C8H6BrClO2
